US06162809
9. 3-Methyl-4-[3-(1,2,3.4-tetrahydroisoquinolin-2-yl)propylthio]-2-[(2-pyridinylthio)methyl]pyridine
According to the procedure described in Example 7, reaction of 4-(3-chloropropylthio)-3-methyl-2-[(2-pyridinylthio)methyl]pyridine dihydrochloride with 1,2,3,4-tetrahydroisoquinoline and potassium carbonate gives the title compound; m.p. hygroscopic; dec. from 58° C.; yield 46% of theory.

reactant | 4-(3-chloropropylthio)-3-methyl-2-[(2-pyridinylthio)methyl]pyridine dihydrochloride | Cl.Cl.ClCCCSC1=C(C(=NC=C1)CSC1=NC=CC=C1)C
reactant | 1,2,3,4-tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 3-Methyl-4-[3-(1,2,3.4-tetrahydroisoquinolin-2-yl)propylthio]-2-[(2-pyridinylthio)methyl]pyridine | yield 46% | CC=1C(=NC=CC1SCCCN1CC2=CC=CC=C2CC1)CSC1=NC=CC=C1 | C24H27N3S2
